US06747050B1
Synthesis of 4-(9-Fluorenylmethoxycarbonyl)amino-(4S)-5-hydroxy-pentanoic Acid t-Butyl Ester
To a solution of N-(9-fluorenylmethoxycarbonyl)-γ-t-butyl glutamic acid (8.51 g, 20.0 mmol) and NMM (2.42 mL, 1.1 eq) in dry THF (110 mL) under N2 at 0° C. was added isobutyl chloroformate (2.72 mL, 1.05 eq). After 20 min., the reaction e was filter-added to a solution of NaBH4 (1.5 g) in THF (120 mL)-MeOH (30 mL) at −78° C. under N2 and rinsed with dry THF (20 mL). After stirring for 2.5 h at −78° C., the reaction was quenched with acetic acid (13 mL). After concentrating to ˜50 mL, the residue was dissolved in ethyl acetate-hexanes (200 mL, 1:1), washed with water (150 mL×2). Aqueous layer was re-extracted with ethyl acetate-hexanes (150 mL, 1:1). Combined extract was washed with sat'd NaHCO3 (150 mL×2), dried (anhydrous Na2SO4), filtered and concentrated to give 8.30 g of the title compound as glasslike solid. The crude alcohol was used directly.

reactant | N-(9-fluorenylmethoxycarbonyl)-γ-t-butyl glutamic acid | 20.0 mmol, 8.51 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CC(C(=O)O)C(C)(C)C)C(=O)O | C24H27NO6
reactant | NMM | 2.42 mL, 1.1 eq | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 2.72 mL, 1.05 eq | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NaBH4 | 1.5 g | [BH4-].[Na+]
reactant | THF | 110 mL | C1CCOC1 | C4H8O
reactant | THF | 120 mL | C1CCOC1 | C4H8O
solvent | MeOH | 30 mL | CO | CH4O
product | 4-(9-Fluorenylmethoxycarbonyl)amino-(4S)-5-hydroxy-pentanoic Acid t-Butyl Ester | 8.30 g | C(C)(C)(C)OC(CC[C@@H](CO)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C24H29NO5
